Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Seroquel / Klonopin
 
Attending: ___.
 
Chief Complaint:
chills, shaking
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ is a ___ yr old PMH diabetes, HTN, sleep apnea,
osteoarthritis who is presenting 2 days after a tooth extraction
with rigors, chills, and feeling unwell. 

She reports that on ___ of this week she had a crown come 
out
so on ___ she had her tooth extracted on her lower left
mouth. As soon as the novicane wore off she started feeling
chills. She felt weak as well so she drank OJ and glucerna. She
initially felt better. Then on ___ she was still low 
energy.
She presented to her acupuncturist who helped "fix her energy",
but it did make her feel better. She began having more chills 
and
shaking. According to her daughter she was not breathing well
either. Her neighbor is a pediatrician and came over and said 
she
looked pale and unwell, that coupled with her daughter's 
thoughts
resulted in them calling an ambulance to go to the hospital. The
daughter noted that the patient was confused. She noted that she
felt febrile at that time. 
 
In the ED, initial vitals showed a temperature to 103, HR 124, 
BP
125/81, 20 on 100% non-rebreather. The exam was non-focal. She
was mildly confused and unable to recall certain events.     

Labs notable for a stable chemistry, a WBC count to 11.1, normal
LFTs, negative trop, lactate 2.0, negative flu, and UA w/ 6 WBC,
few bact, sm leuk, and 2 epis.  

A CXR showed mild pulmonary vascular congestion, no focal
consolidation. 

Pt given acetaminophen 1000 mg, 2 L NS, Zosyn, vanco,
notrtriptyline 50 mg. 

Vitals prior to transfer: 98.3, HR 78, BP 106/55, RR 15, 99% Ra. 


Upon arrival to the floor, the patient reports she is feeling
much better. She denies fever, chills, headaches, shortness of
breath, nausea, vomiting, further shaking. She says she no 
longer
feels confused. She denies sick contacts. She denies ever 
feeling
this way before. 

On ROS she denies dizziness, lightheadness, chest pain,
palpitations, difficulty laying flat, leg edema, nausea,
vomiting, diarrhea, constipation, urinary frequency, burning w/
urination, rashes, joint pain (other than her chronic back 
pain).

 
Past Medical History:
OSA
Pre-DM
HTN
HLD
Anxiety
Depression
Osteoarthritis
 
Social History:
___
Family History:
non- contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VITALS:  24 HR Data (last updated ___ @ 139)
    Temp: 98.0 (Tm 98.0), BP: 116/67, HR: 75, RR: 17, O2 sat:
97%, O2 delivery: Ra  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD, mouth with no obvious
deformities in socket, she does have poor dentition overall.   
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.  

DISCHARGE PHYSICAL EXAM
=======================
VITALS:  24 HR Data (last updated ___ @ 744)
    Temp: 98.1 (Tm 98.5), BP: 118/70 (118-133/65-76), HR: 75 
(75-87), RR: 18 (___), O2 sat: 94% (94-97), O2 delivery: Ra    

General: Sitting up in chair, NAD 
HEENT: Sclerae anicteric, oropharynx clear, site of L lower 
tooth extraction without erythema, exudate, or induration, 
non-tender.   
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Skin: Warm, dry, no rashes or notable lesions.    
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:00PM BLOOD WBC-11.1* RBC-4.19 Hgb-11.9 Hct-36.5 
MCV-87 MCH-28.4 MCHC-32.6 RDW-15.4 RDWSD-48.6* Plt ___
___ 08:00PM BLOOD Neuts-84.6* Lymphs-10.0* Monos-4.2* 
Eos-0.6* Baso-0.2 Im ___ AbsNeut-9.40* AbsLymp-1.11* 
AbsMono-0.47 AbsEos-0.07 AbsBaso-0.02
___ 08:00PM BLOOD Glucose-126* UreaN-25* Creat-0.8 Na-138 
K-4.1 Cl-98 HCO3-23 AnGap-17
___ 08:00PM BLOOD ALT-17 AST-14 AlkPhos-73 TotBili-0.3
___ 08:00PM BLOOD Albumin-4.1 Calcium-9.8 Phos-2.6* Mg-1.9
___ 08:09PM BLOOD ___ Temp-38.6 pO2-40* pCO2-31* 
pH-7.51* calTCO2-26 Base XS-1
___ 08:09PM BLOOD Lactate-2.0

REPORTS
=======
CHEST (PA & LAT) Study Date of ___
The lungs are clear without focal consolidation.  There is mild 
pulmonary 
vascular congestion without frank pulmonary edema.  No pleural 
effusion or 
pneumothorax is seen. The cardiac and mediastinal silhouettes 
are 
unremarkable.  There are degenerative changes of the bilateral 
shoulders. 

Blood culture ___: NGTD
Blood culture ___: NGTD
Blood culture ___: NGTD
Urine culture ___: NGTD

DISCHARGE LABS
==============  
___ 07:19AM BLOOD WBC-6.7 RBC-3.74* Hgb-10.5* Hct-33.7* 
MCV-90 MCH-28.1 MCHC-31.2* RDW-15.6* RDWSD-51.8* Plt ___
___ 07:19AM BLOOD Glucose-101* UreaN-13 Creat-0.8 Na-143 
K-4.2 Cl-106 HCO3-22 AnGap-15
___ 07:19AM BLOOD Calcium-9.2 Phos-3.1 Mg-2.2
 
Brief Hospital Course:
___ is a ___ yr old woman with PMH diabetes, HTN, sleep apnea, 
osteoarthritis who is presenting 2 days after a tooth extraction 
with rigors, chills, and feeling unwell, found to have transient 
fever, hypotension, and tachycardia concerning for transient 
bacteremia after tooth extraction.

#Sepsis
#Tooth extraction
On presentation, patient was hypotensive compared to baseline, 
febrile, tachycardic with elevated RR and leukocytosis, but 
without localizing symptoms. CXR without evidence of PNA, UA not 
concerning for infection. Bcx currently NGTD. Notably, she has 
poor dentition and did have a tooth extraction (left lower 
molar) on ___ of last week which is concerning for a 
transient bacteremia secondary to dental manipulation. Fevers, 
chills, hypotension, and leukocytosis have resolved after IVF 
and antibiotic administration and patient is feeling back to 
baseline. Blood culture have been without growth to date. She 
was transitioned from unasyn to augmentin for a total of 7 day 
course of antibiotics (___).

#DM
Pre-diabetes per patient w/ HA1c < 6. Held home metformin, 
receive ISS in house.

#HTN:
Presented hypotenstive and home anti-hypertensives were held. 
Restarted amlodipine in house. Patient instructed to hold 
Triamterene-HCTZ (37.5/25) until PCP follow up. 

#OSA
Continued CPAP at night

#osteoarthritis 
Continued Tylenol PRN 

#CODE: Full (presumed)
#CONTACT: Daughter ___ ___

TRANSITIONAL ISSUES
===================
[] Patient's Triamterene-HCTZ was held due to normotension. Can 
consider restarting as an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
2. Fexofenadine 60 mg PO DAILY 
3. Ibuprofen 200 mg PO Q6H:PRN Pain - Mild 
4. Magnesium Oxide 200 mg PO BID 
5. amLODIPine 5 mg PO DAILY 
6. Nortriptyline 60 mg PO QHS 
7. BuPROPion 100 mg PO DAILY 
8. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 6 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab-cap by mouth 
twice a day Disp #*12 Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  BuPROPion 100 mg PO DAILY  
4.  Fexofenadine 60 mg PO DAILY  
5.  Ibuprofen 200 mg PO Q6H:PRN Pain - Mild  
6.  Magnesium Oxide 200 mg PO BID  
7.  MetFORMIN (Glucophage) 500 mg PO BID  
8.  Nortriptyline 60 mg PO QHS  
9. HELD- Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  This 
medication was held. Do not restart Triamterene-HCTZ (37.5/25) 
until discussing with your doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sepsis likely secondary to oropharyngeal source
Diabetes mellitus
Hypertension
Obstructive sleep apnea
Osteoarthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You came to the hospital because you were feeling generally 
unwell and having chills.

What did you receive in the hospital?
- You receive antibiotics to treat an infection. We think the 
infection was most likely related to bacteria in your mouth 
after your tooth extraction.

What should you do once you leave the hospital?
- Please take all of your medications as prescribed and attend 
all of your follow up appointments as scheduled.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___